US04640708
Diethyl malonate (9.82 g) was added to a solution of sodium metal (1.41 g) in anhdrous absolute ethanol (50 ml). 1-(2,3-Dimethylnaphth-1-yl)but-1-en-3-one (12.5 g) was added to the solution and the mixture was heated under reflux for 2 hr. A slight excess of an aqueous solution of potassium hydroxide was added and the mixture was heated under reflux for a further 5 hr. The hot mixture was acidified by dropwise addition of a dilute aqueous hydrochloric acid solution. After cooling, the product was filtered off and washed with a little diethyl ether to give 3-hydroxy-5-(2,3-dimethylnaphth-1-yl)-cyclohex-2-en-1-one as a white solid, mp 242° C.

reactant | Diethyl malonate | 9.82 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 1.41 g | [Na] | Na
reactant | 1-(2,3-Dimethylnaphth-1-yl)but-1-en-3-one | 12.5 g | CC1=C(C2=CC=CC=C2C=C1C)C=CC(C)=O | C16H16O
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-hydroxy-5-(2,3-dimethylnaphth-1-yl)-cyclohex-2-en-1-one | OC1=CC(CC(C1)C1=C(C(=CC2=CC=CC=C12)C)C)=O | C18H18O2
